US07723336B2
To N6-(trans-4-aminocyclohexyl)-N8-(4-methoxybenzyl)imidazo[1,2-b]pyridazine-6,8-diamine from 1b in dichloromethane (5 mL) was added TFA (2 mL). After stirring at RT for 2 hours, the reaction solution was concentrated in vacuo To provide crude N6-(trans-4-aminocyclohexyl)imidazo[1,2-b]pyridazine-6,8-diamine that was used without further purification. LC/MS, m/e 247.16 (M+1). HPLC Rt, 0.73 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | N6-(trans-4-aminocyclohexyl)-N8-(4-methoxybenzyl)imidazo[1,2-b]pyridazine-6,8-diamine | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C=CN2)NCC2=CC=C(C=C2)OC | C20H26N6O
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N6-(trans-4-aminocyclohexyl)imidazo[1,2-b]pyridazine-6,8-diamine | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C=CN2)N | C12H18N6
